// Ideal diode, bipolar transistor models

model ideal_diode diode level=1 is=0.1f
model ideal_npn bjt type=npn is=0.1f bf=100 va=25 tf=10p
model ideal_pnp bjt type=pnp is=0.1f bf=100 va=25 tf=10p
